US05698568
A. N-Benzyl-9-azabicyclo[3.3.1]nonan-3-one
To a 1 L round-bottomed flask equipped with a condenser and nitrogen inlet were added 80 g (0.2 mol) of a 25% aqueous solution of glutaraldehyde, 29.2 g (0.2 mol) 1,3-acetonedicarboxylic acid, and 11.4 g (0.2 mol) benzylamine. After the initial reaction had subsided, the pH was adjusted to 5 and maintained for 14 hours. The reaction was then taken up in 6N HCl, washed with ethyl acetate, and basified with 6N sodium hydroxide solution. The aqueous layer was extracted with methylene chloride, and the organic layer filtered through diatomaceous earth (Celite [trademark]) and evaporated. The residue was chromatographed on silica gel with ethyl acetate/methylene chloride as eluent to afford 15.034 g (33%) of a pale orange solid, mp 70-73C.

reactant | glutaraldehyde | C(CCCC=O)=O | C5H8O2
reactant | 1,3-acetonedicarboxylic acid | 0.2 mol, 29.2 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | benzylamine | 0.2 mol, 11.4 g | C(C1=CC=CC=C1)N | C7H9N
solvent | HCl | 6N | Cl | ClH
product | N-Benzyl-9-azabicyclo[3.3.1]nonan-3-one | 15.034 g, 33% | C(C1=CC=CC=C1)N1C2CC(CC1CCC2)=O | C15H19NO
